US04041173
A mixture of 103.2 g. of p-bromophenylacetic acid, 77.4 g. of benzene-1,2,4-tricarboxylic anhydride and 1.5 g. of sodium acetate was heated to 275° for 2 hours. The residue was dissolved in 1600 ml of hot dimethylformamide and the solution diluted with 400 ml of water, then cooled. The solution was then filtered to afford a mixture of 3-(p-bromobenzylidene)phthalide-5- and -6-carboxylic acids. 80 g. of this mixture was refluxed for 72 hours in 160 ml of acetic anhydride and 240 ml of 57% aqueous hydriodic acid containing 35.2 g. of red phosphorus. The mixture was cooled in ice and diluted with 1000 water. The solution was filtered and the residue dissolved in 800 ml dimethylformamide and filtered. The filtrate was evaporated to yield a residue which upon recrystallization from benzene: ethanol (3:1) yielded 4-(p-bromophenethyl)benzene-1,3-dicarboxylic acid. The mother liquors were evaporated and the residue recrystallized from ethyl acetate to afford 2-(p-bromophenethyl)benzene-1,4-dicarboxylic acid. 8.5 G. of 2-(p-bromophenethyl)-benzene-1,4-dicarboxylic acid was stirred at 170° for 6 hours in a mixture of 40 ml of polyphosphonic acid and 30 ml of tetrahydrothiophene-1,1-dioxide. The mixture was then poured into water and the product filtered off and recrystallized from aqueous dimethylformamide to yield 2-carboxy-7-bromo-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene mp 252°-254°.

reactant | p-bromophenylacetic acid | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | benzene-1,2,4-tricarboxylic anhydride | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | 1600 ml | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
solvent | acetic anhydride | 160 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | hydriodic acid | 240 ml, 35.2 g | I | HI
product | 4-(p-bromophenethyl)benzene-1,3-dicarboxylic acid | BrC1=CC=C(CCC2=C(C=C(C=C2)C(=O)O)C(=O)O)C=C1 | C16H13BrO4
